US06881733B1
A solution of 0.100 gm (0.3 mMol) (−)-cis-1-(tert-butoxycarbonyl)-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine in 2 mL tetrahydrofuran was cooled to −78° C. To this solution were added 0.38 mL (0.6 mMol) n-butyllithium (1.6 M in hexane) dropwise. After stirring for 5 minutes, 0.02 mL (0.33 mMol) iodomethane were added and the reaction mixture was stirred at −78° C. for 3 hours. The solution was treated with an additional 0.06 mL (0.1 mMol) n-butyllithium (1.6 M in hexane) followed by 0.02 mL (0.33 mMol) iodomethane. After stirring for 1 hour at −78° C., an additional 0.06 mL (0.1 mMol) n-butyllithium (1.6 M in hexane) followed by 0.02 mL (0.33 mMol) iodomethane were added to the reaction mixture. The mixture was then stirred at room temperature for 14 hours and was then partitioned between 5 mL deionized water and 40 mL ethyl acetate. The organic phase was washed sequentially with 20 mL portions of saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The organic phase was then dried over magnesium sulfate and concentrated under reduced pressure to provide (−)-cis-1-(tert-butoxycarbonyl)-3-methyl-4-(2-methyl-5-fluorobenzofur-7-yl)piperidine.

reactant | (−)-cis-1-(tert-butoxycarbonyl)-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine | 0.3 mMol, 0.100 gm | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=2C=COC21)F)C | C19H24FNO3
reactant | n-butyllithium | 0.6 mMol, 1.6 M, 0.38 mL | C(CCC)[Li]
reactant | iodomethane | 0.33 mMol, 0.02 mL | IC | CH3I
reactant | n-butyllithium | 0.1 mMol, 1.6 M, 0.06 mL | C(CCC)[Li]
reactant | iodomethane | 0.33 mMol, 0.02 mL | IC | CH3I
reactant | n-butyllithium | 0.1 mMol, 1.6 M, 0.06 mL | C(CCC)[Li]
reactant | iodomethane | 0.33 mMol, 0.02 mL | IC | CH3I
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (−)-cis-1-(tert-butoxycarbonyl)-3-methyl-4-(2-methyl-5-fluorobenzofur-7-yl)piperidine | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=2C=C(OC21)C)F)C | C20H26FNO3
